US04001228
2-MORPHOLINOETHYL S-(4,5-DIPHENYLOXAZOL-2-YL)-MERCAPTOACETATE
A 7.3 g aliquot of the thus prepared 2-morpholinoethyl chloroacetate hydrochloride was then reacted according to the procedure of Example 1 with 7.6 g 4,5-diphenyl-4-oxazolin-2-thione to give 2.4 g of the title compound.

reactant | 2-morpholinoethyl chloroacetate hydrochloride | Cl.ClCC(=O)OCCN1CCOCC1
reactant | 4,5-diphenyl-4-oxazolin-2-thione | 7.6 g | C1(=CC=CC=C1)C=1NC(OC1C1=CC=CC=C1)=S | C15H11NOS
product | 2-MORPHOLINOETHYL S-(4,5-DIPHENYLOXAZOL-2-YL)-MERCAPTOACETATE | 2.4 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)SCC(=O)OCCN1CCOCC1 | C23H24N2O4S
